US08791132B2
A mixture of 5-ethynyl-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (260 mg, 1.160 mmol), 3-bromoquinoline (200 mg, 0.961 mmol), TBAF.3H2O (1.1 g, 3.492 mmol) and dichloro bis(triphenylphosphine) palladium (II) (41 mg, 0.058 mmol) was stirred at 85° C. for 10 min. The reaction mixture was diluted with water and extracted with EtOAc (4×30 mL). The combined organic layer was washed with water (4×30 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford crude product, which was purified by column chromatography using neutral alumina and 0.5% MeOH-DCM to yield 2,8-dimethyl-5-quinolin-3-ylethynyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR (CDCl3, freebase) δ (ppm): 9.0 (s, 1H), 8.25 (s, 1H), 8.1 (d, 1H), 7.8 (d, 1H), 7.7 (t, 1H), 7.6 (t, 1H), 7.5 (d, 1H), 7.2 (s, 1H), 7.1 (d, 1H), 3.62 (s, 2H), 3.0 (t, 2H), 2.7 (t, 2H), 2.6 (s, 3H), 2.42 (s, 3H).

reactant | 5-ethynyl-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.160 mmol, 260 mg | C(#C)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C15H16N2
reactant | 3-bromoquinoline | 0.961 mmol, 200 mg | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | water | O | H2O
product | 2,8-dimethyl-5-quinolin-3-ylethynyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | CN1CC2=C(N(C=3C=CC(=CC23)C)C#CC=2C=NC3=CC=CC=C3C2)CC1 | C24H21N3
